US08877774B2
Step 3. tert-butyl((3-((4′-((1,3-dioxolan-2-yl)methyl)-[1,1′-biphenyl]-3-yl)methoxy)phenyl)(phenyl)methyl)carbamate
The title compound was prepared as described in Example 22 Step 2 with (4′-((1,3-dioxolan-2-yl)methyl)-[1,1′-biphenyl]-3-yl)methanol and tert-butyl(3-hydroxy-phenyl)(phenyl)methylcarbamate replacing (4-((1,3-dioxolan-2-yl)methyl)phenyl)-methanol and 3-hydroxybenzophenone respectively.

reactant | (4′-((1,3-dioxolan-2-yl)methyl)-[1,1′-biphenyl]-3-yl)methanol | O1C(OCC1)CC1=CC=C(C=C1)C1=CC(=CC=C1)CO | C17H18O3
reactant | tert-butyl(3-hydroxy-phenyl)(phenyl)methylcarbamate | C(C)(C)(C)OC(N(CC1=CC=CC=C1)C1=CC(=CC=C1)O)=O | C18H21NO3
reactant | 3-hydroxybenzophenone | OC=1C=C(C(=O)C2=CC=CC=C2)C=CC1 | C13H10O2
product | tert-butyl((3-((4′-((1,3-dioxolan-2-yl)methyl)-[1,1′-biphenyl]-3-yl)methoxy)phenyl)(phenyl)methyl)carbamate | C(C)(C)(C)OC(NC(C1=CC=CC=C1)C1=CC(=CC=C1)OCC=1C=C(C=CC1)C1=CC=C(C=C1)CC1OCCO1)=O | C35H37NO5
